US09353107B2
Step-ii: N-(5-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-methoxypyridin-3-yl)methanesulfonamide
Using similar reaction conditions as described in step-iii of example-1, N-(5-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-methoxypyridin-3-yl) methanesulfonamide (70 mg, 0.108 mmol) was hydrolyzed with lithium hydroxide (14 mg, 0.324 mmol) in THF/methanol/water (3.5/3.5/0.5 mL) to yield 17 mg (31.8% yield) after purification by preparative TLC (Silicagel-1000 micron) using 5% methanol in chloroform as eluent. 1H NMR (CD3OD, 300 MHz): δ 8.42 (s, 1H), 8.34-8.33 (s, 1H), 8.288-8.280 (d, 1H), 8.22 (s, 1H), 8.04-8.03 (d, 1H), 7.934-7.931 (d, 1H), 8.04-8.03 (d, 1H), 7.934-7.931 (d, 1H), 7.65 (s, 1H), 7.38-7.35 (q, 1H), 7.12-7.09 (d, 1H), 7.03-6.99 (m, 2H), 5.42 (s, 2H), 4.06 (s, 3H), 3.03 (s, 3H). MS: m/z=492.8 (M+1), HPLC: 96.33% in method B.

reactant | N-(5-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-methoxypyridin-3-yl) methanesulfonamide | 0.108 mmol, 70 mg | FC=1C=C(CN2N=CC(=C2)C2=CN(C3=NC=C(C=C32)C=3C=C(C(=NC3)OC)NS(=O)(=O)C)S(=O)(=O)C3=CC=C(C)C=C3)C=CC1 | C31H27FN6O5S2
reactant | lithium hydroxide | 0.324 mmol, 14 mg | [OH-].[Li+]
solvent | THF methanol water | 0.5 mL | C1CCOC1.CO.O
product | N-(5-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-methoxypyridin-3-yl)methanesulfonamide | 31.8% yield | FC=1C=C(CN2N=CC(=C2)C2=CNC3=NC=C(C=C32)C=3C=C(C(=NC3)OC)NS(=O)(=O)C)C=CC1 | C24H21FN6O3S
